US05223613
Referring to reaction Scheme I, trans-1,2-di-carbomethoxy-4-methylene-cyclopentane is reacted with sodium hydroxide followed with acid to produce trans-4-methylene-1,2-cyclopentanedicarboxylic acid. The dicarboxylic acid is reacted with acetic anhydride to produce cis-tetrahydro-5-methylene-1H-cyclopenta[c]furan-1,3(3H)-dione. The ammonium salt 4 is prepared by reacting the anhydride 3 in dry methylene chloride with ammonia gas. The imide 5 is prepared from the ammonium salt by reacting the ammonium salt with acetyl chloride. The imide is reacted with lithium aluminum hydride and ditertiarybutyl dicarbonate to produce cis-1,1-dimethylethylhexahydro-5-methylenecyclopenta[c]pyrrole-2(1H)carboxylate 6. The term BOC is used herein to refer to t-butyloxy carbonyl. The BOC-amine 6 is reacted with bis(p-toluenesufonyl) sulfodiimide to produce the p-toluenesulfonamide 7. The term Tos is used herein to represent p-toluenesulfonyl. The p-toluenesulfonamide is reacted with thexyl borane to produce the endo alcohol 8. The endo alcohol is reacted with p-toluenesulfonyl chloride to produce the tosylate 9. The tosylate 9 is reacted with trifluoroacetic acid and treated with Hunig's base to provide the p-toluenesulfonamide tetracycle 10. The sulfonamide tetracycle 10 was reductively cleaved to produce the aminoazatetracycle 11. Coupling of the aminoazatetracycle 11 with benzoic acid derivative 12 under mixed anhydride conditions gave the protected benzamide tetracycle 13. Basic hydrolysis of the acetamide 13 gives the benzamide tetracycle 14 which upon treatment with HCl produces the hydrochloride salt of the benzamide tetracycle 15.

reactant | trans-1,2-di-carbomethoxy-4-methylene-cyclopentane | C(=O)(OC)[C@H]1[C@@H](CC(C1)=C)C(=O)OC | C10H14O4
reactant | sodium hydroxide | [OH-].[Na+]
product | trans-4-methylene-1,2-cyclopentanedicarboxylic acid | C=C1C[C@H]([C@@H](C1)C(=O)O)C(=O)O | C8H10O4
